US06673267B2
A flask equipped with a stirrer and a thermometer was charged with 3.35 g (9.13 mmol) of 4-bromo-2-(trifluoromethoxy)iodobenzene and 19 ml of triethylamine under a nitrogen atmosphere. Then 1.48 g (9.13 mmol) of 2-[4-(3-methyl-3-hydroxybutyne-1-yl)phenoxy]ethanol, 13.7 mg (0.072 mmol) of copper (I) iodide, 63.2 mg (0.24 mmol) of triphenylphosphine, and 13.7 mg (0.020 mmol) of dichlorobis(triphenylphosphine)palladium were added at room temperature, and stirred under reflux for 6 hours. After the insolubles were filtered off and the solvent was distilled off, ethyl acetate was added to the resulting distillate, and the pH was adjusted to an acidity with 1N hydrochloric acid to effect ethyl acetate extraction. The resulting extract was washed with NaCl saturated water, dried over anhydrous sodium sulfate, filtered, and concentrated to thereby obtain 3.85 g of a crude product in the form of a yellowish brown solid. The crude product was then purified by silica gel column chromatography using hexane/ethyl acetate as an eluting solvent to obtain 3.0 g of 2-(4-{2-[4-bromo-2-(trifluoromethoxy)phenyl]ethynyl}phenoxy)ethanol in the form of a light yellow solid in a 82% yield.

reactant | 4-bromo-2-(trifluoromethoxy)iodobenzene | 9.13 mmol, 3.35 g | BrC1=CC(=C(C=C1)I)OC(F)(F)F | C7H3BrF3IO
reactant | 2-[4-(3-methyl-3-hydroxybutyne-1-yl)phenoxy]ethanol | 9.13 mmol, 1.48 g | CC(C#CC1=CC=C(OCCO)C=C1)(C)O | C13H16O3
catalyst | copper (I) iodide | 0.072 mmol, 13.7 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.020 mmol, 13.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triphenylphosphine | 0.24 mmol, 63.2 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 19 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-{2-[4-bromo-2-(trifluoromethoxy)phenyl]ethynyl}phenoxy)ethanol | 3.0 g, 82% yield | BrC1=CC(=C(C=C1)C#CC1=CC=C(OCCO)C=C1)OC(F)(F)F | C17H12BrF3O3
